US08748632B2
2-Cyclopentyl-6-hydroxybenzo[d]isothiazol-3(2H)-one (0.094 g, 0.4 mmol) and methyl 3′-(bromomethyl)biphenyl-4-carboxylate (0.146 g, 0.48 mmol) were processed according to the general procedure described for Example 19 to afford 3′-((2-cyclopentyl-3-oxo-2,3-dihydrobenzo[d]isothiazol-6-yloxy)methyl)biphenyl-4-carboxylic acid as a colorless solid in 35% yield over 2 steps (0.053 g, after HPLC purification). 1H NMR (400 MHz, DMSO-d6): δ 7.99 (d, 2H, J=8.6 Hz), 7.83-7.79 (m, 5H), 7.70-7.69 (m, 1H), 7.51-7.42 (m, 2H), 7.45 (d, 1H, J=8.5 Hz), 5.34 (s, 2H), 4.49-4.47 (m, 1H), 1.86-1.76 (m, 2H), 1.75-1.57 (m, 6H). HRMS (ESI) calcd for C26H23NO4S [M+H]+: 446.1420. Found: 446.1420.

reactant | 2-Cyclopentyl-6-hydroxybenzo[d]isothiazol-3(2H)-one | 0.4 mmol, 0.094 g | C1(CCCC1)N1SC2=C(C1=O)C=CC(=C2)O | C12H13NO2S
reactant | methyl 3′-(bromomethyl)biphenyl-4-carboxylate | 0.48 mmol, 0.146 g | BrCC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C15H13BrO2
product | 3′-((2-cyclopentyl-3-oxo-2,3-dihydrobenzo[d]isothiazol-6-yloxy)methyl)biphenyl-4-carboxylic acid | 35% yield | C1(CCCC1)N1SC2=C(C1=O)C=CC(=C2)OCC=2C=C(C=CC2)C2=CC=C(C=C2)C(=O)O | C26H23NO4S
